US04845291
Preparation of 4-(Cyclopent-2-enyl)-1,3-phenylenediamine
A 200g (1.85 mol) portion of 1,3-phenylenediamine, 183 g (1.39 mol, 2.77 equiv.) of dicyclopentadiene, 225g (3.14 mol) of pentane, and 20g of an amorphous alumina-silica catalyst comprised of 13% alumina and 87% silica were charged to a 1000 cc pressure vessel equipped with a mechanical stirrer. The vessel was sealed and purged with nitrogen leaving a 35 psig nitrogen blanket. the vessel contents were heated to 215° C. with stirring and were maintained at that temperature for 22 hr. Initial reaction pressure was 522 psig. The contents were cooled to 150° C. and isolated catalyst free by hot filtration. Selective removal of residual cyclopentadiene and pentane by vacuum distillation and analysis by gas chromatography (GC) revealed the following product mixture:

reactant | 1,3-phenylenediamine | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | dicyclopentadiene | 1.39 mol, 183 g, 2.77 equiv. | C1C=CC2C1C3CC2C=C3 | C10H12
solvent | pentane | CCCCC | C5H12
product | 4-(Cyclopent-2-enyl)-1,3-phenylenediamine | C1(C=CCC1)C1=C(C=C(C=C1)N)N | C11H14N2
